US05916901
(R)-1-(3-(12H-Dibenzo[d,g][1,3]dioxocin-12-ylidene)-1-propyl)-3-piperidinecarboxylic acid ethyl ester hydrochloride
(R)-1-(3-(12H-dibenzo[d,g][1,3]dioxocin-12-ylidene)-1-propyl)-3-piperidinecarboxylic acid ethyl ester (0.86 g, 2.1 mmol, prepared as described in example 2 was dissolved in tetrahydrofuran (10 ml) and a 2.6 N solution of hydrogen chloride in ether (0.97 ml, 2.52 mmol) was added dropwise. The solution was evaporated in vacuo and the remainder was treated with ether (20 ml). The precipitate was filtered off, washed with ether and dried in vacuo, affording the title compound as a powder.

reactant | (R)-1-(3-(12H-dibenzo[d,g][1,3]dioxocin-12-ylidene)-1-propyl)-3-piperidinecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1CN(CCC1)CCC=C1C2=C(OCOC3=C1C=CC=C3)C=CC=C2 | C25H29NO4
reactant | hydrogen chloride | Cl | ClH
reactant | ether | 2.52 mmol, 0.97 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (R)-1-(3-(12H-Dibenzo[d,g][1,3]dioxocin-12-ylidene)-1-propyl)-3-piperidinecarboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)[C@H]1CN(CCC1)CCC=C1C2=C(OCOC3=C1C=CC=C3)C=CC=C2 | InChI=1S/C25H29NO4.ClH/c1-2-28-25(27)19-9-7-15-26(17-19)16-8-12-20-21-10-3-5-13-23(21)29-18-30-24-14-6-4-11-22(20)24;/h3-6,10-14,19H,2,7-9,15-18H2,1H3;1H/t19-;/m1./s1
